US07642264B2
N-tert-Butyl-4-{1-[6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide was prepared from 2-(4-iodo-imidazol-1-yl)-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine (example E.73) (0.50 g, 1.0 mmol) and commercially available 4-(tert.-butylsulfamoyl)-phenylboronic acid (0.31 g, 1.2 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.057 g), which was subsequently deprotected.

reactant | 2-(4-iodo-imidazol-1-yl)-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine | 1.0 mmol, 0.50 g | IC=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C16H9F6IN4
reactant | 4-(tert.-butylsulfamoyl)-phenylboronic acid | 1.2 mmol, 0.31 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-4-{1-[6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C26H23F6N5O2S
